*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :1005M(0402)/B(-25to85[deg])/1.00e+00[uF]/4[V]
* Murata P/N :GRM153B30G105ME19
* Property : C = 1.00e+00[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[Hz]-6[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GRM153B30G105ME19 Port1 Port2
C01 Port1 N01 7.07e-07
R01 Port1 N01 5.00e+07
L02 N01 N02 1.87e-10
R03 N02 N03 1.33e-02
C04 N03 N04 4.61e-05
R04 N03 N04 4.50e+01
C05 N04 N05 5.95e-05
R05 N04 N05 9.59e+00
C06 N05 N06 5.68e-05
R06 N05 N06 1.77e+00
C07 N06 N07 6.31e-05
R07 N06 N07 2.33e-01
C08 N07 N08 5.55e-05
R08 N07 N08 4.05e-02
C09 N08 N09 3.49e-05
R09 N08 N09 9.29e-03
L10 N09 N10 3.97e-11
R10 N09 N10 1.82e-01
L11 N10 N11 7.01e-12
R11 N10 N11 1.31e-01
L12 N11 N12 9.05e-11
R12 N11 N12 4.44e-02
C13 N12 N13 3.44e-07
L13 N12 N13 6.84e-11
R13 N12 N13 9.30e-03
C14 N13 Port2 4.08e-11
L14 N13 Port2 7.23e-12
R14 N13 Port2 6.57e-01
.ENDS GRM153B30G105ME19
